US07345095B2
(R)-2-[(4-Chloro-benzenesulfonyl)-(2,2-dimethyl-propyl)-amino]-2-phenyl-acetamide
(R)-2-(2,2-Dimethyl-propylamino)-2-phenyl-acetamide (700 mg, 3.2 mmol) was dissolved in dichloromethane (15 mL) and chilled in an ice bath. The solution was treated with triethylamine (553 uL, 4.0 mmol) followed by 4-chlorobenzenesulfonyl chloride (671 mg, 3.2 mmol). After heating at 50° C. for 18 h, the mixture was cooled, diluted with aqueous sodium bicarbonate and extracted with dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated to an oil. Purification on a silica gel flash column (40% EtOAc in hexanes, eluent) afforded the title compound in 3% yield. 13CNMR (100 MHz, CDCl3) 28.6, 33.2, 62.7, 70.0, 128.8, 129.0, 121.1, 129.2, 130.7, 133.6, 138.7, 139.0, 172.7. MS 395.1 m/z (M+1).

reactant | (R)-2-(2,2-Dimethyl-propylamino)-2-phenyl-acetamide | 3.2 mmol, 700 mg | CC(CN[C@@H](C(=O)N)C1=CC=CC=C1)(C)C | C13H20N2O
reactant | triethylamine | 4.0 mmol, 553 uL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 3.2 mmol, 671 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (R)-2-[(4-Chloro-benzenesulfonyl)-(2,2-dimethyl-propyl)-amino]-2-phenyl-acetamide | 3% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)N)C1=CC=CC=C1)CC(C)(C)C | C19H23ClN2O3S
